US07910774B2
Preparation of carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-5-methyl-hexylester tert-butyl ester
A solution of 7.9 g of 4-bromo-1-methoxy-2-(3-methoxypropoxy)-benzene in 125 mL of tetrahydrofuran is cooled to −78° C. A solution of n-butyllithium (14.219 g of a 1.6 M solution in hexane) is added within 50 minutes. The reaction mixture is stirred for 90 minutes at −78° C. and treated slowly with 75 mL of a tetrahydrofuran solution of 8.93 g of (3S,5S)-5-tert-butoxycarbonyloxymethyl-3-isopropyl-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester. The resulting reaction mixture is stirred for 3 hours at −78° C. Finally the temperature is raised to −40° C. and the mixture stirred for 45 minutes. Acetic acid (4 mL) was added and the solvent removed by evaporation. The residue is dissolved in 100 mL of ethyl acetate and washed with two 75 mL portions of saturated sodium bicarbonate solution followed by one portion of 150 mL of water. The organic phase was dried and the solvent removed to give an oil. Chromatography on silica-gel, eluting with hexane/ethyl acetate gives, after combination of the product containing fractions and removal of the solvent, affords the title compound as an oil.

reactant | 4-bromo-1-methoxy-2-(3-methoxypropoxy)-benzene | 7.9 g | BrC1=CC(=C(C=C1)OC)OCCCOC | C11H15BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3S,5S)-5-tert-butoxycarbonyloxymethyl-3-isopropyl-2-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 8.93 g | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@H]1COC(=O)OC(C)(C)C)C(C)C)=O | C18H31NO6
reactant | Acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | carbonic acid (2S,4S)-2-tert-butylcarbonylamino-4-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-5-methyl-hexylester tert-butyl ester | C(C)(C)(C)OC(OC[C@H](C[C@@H](C(C)C)C(C1=CC(=C(C=C1)OC)OCCCOC)=O)NC(=O)C(C)(C)C)=O | C29H47NO8
